US04595532
For example, N-(diphenylmethoxycarbonylmethyl)-3-amino- 2-azetidinone is reacted in THF-water with phenoxyacetyl chloride in the presence of triethylamine to provide N-(diphenylmethoxycarbonylmethyl)-3-phenoxyacetamido-2-azetidinone. Treatment of the product with trifluoroacetic acid in the presence of anisole removes the diphenylmethyl ester group to provide the N-(carboxymethyl)azetidinone.

reactant | N-(diphenylmethoxycarbonylmethyl)-3-amino- 2-azetidinone | C1(=CC=CC=C1)C(OC(=O)CN1C(C(C1)N)=O)C1=CC=CC=C1 | C18H18N2O3
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF water | C1CCOC1.O
product | N-(diphenylmethoxycarbonylmethyl)-3-phenoxyacetamido-2-azetidinone | C1(=CC=CC=C1)C(OC(=O)CN1C(C(C1)NC(COC1=CC=CC=C1)=O)=O)C1=CC=CC=C1 | C26H24N2O5
